US07582659B2
cis-N-t-Butoxycarbonylpyrrolidine-3,4-diol.
To a solution of N-t-butoxycarbonyl-3-pyrroline (69.3 g) and NMO (72.2 g) in tetrahydrofuran (340 mL), t-butanol (210 mL) and water (100 mL) was added OsO4 (2.5% solution in t-butanol, 4.8 mL), the mixture was heated under reflux for 2.5 hours, and then concentrated in vacuo. After dilution of the residue with brine, the mixture was extracted with ethyl acetate. The organic extracts were concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=1:1) of the residue gave

reactant | N-t-butoxycarbonyl-3-pyrroline | 69.3 g | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
reactant | NMO | 72.2 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrahydrofuran | 340 mL | O1CCCC1 | C4H8O
solvent | t-butanol | 210 mL | C(C)(C)(C)O | C4H10O
solvent | water | 100 mL | O | H2O
catalyst | OsO4 | 4.8 mL | O=[Os](=O)(=O)=O
product | cis-N-t-Butoxycarbonylpyrrolidine-3,4-diol | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)O)O | C9H17NO4
